US05489593
3,5-Dichloro-4-(1,1-dimethylethylamino)pyridazine
Following the general procedure of PREPARATION 31 and making non-critical variations but starting with t-butylamine (66.5 ml), and 3,4,5-trichloropyridazine, the title compound is obtained, NMR (300 MHz, CDCl3) 8.50, 5.09, and 1.55 δ.

reactant | t-butylamine | 66.5 ml | C(C)(C)(C)N | C4H11N
reactant | 3,4,5-trichloropyridazine | ClC=1N=NC=C(C1Cl)Cl | C4HCl3N2
product | 3,5-Dichloro-4-(1,1-dimethylethylamino)pyridazine | ClC=1N=NC=C(C1NC(C)(C)C)Cl | C8H11Cl2N3
